US05225425
3,5-Dimethyl-1-[[3-[[[4-(tetradecyloxy)phenyl] acetyl]amino]phenyl]methyl]pyridinium bromide
A mixture of 1.5 g of N-[3-(bromomethyl)phenyl]-4-(tetradecyloxy)benzeneacetamide and 933.5 mg of 3,5-lutidine is refluxed in 25 ml of acetonitrile for 4 hours under argon. The solvent is evaporated and the residue stirred with ether and collected by centrifugation. The solid is washed several times with ether and vacuum dried to give 1.6 g of the desired product as a white powder, m.p. 122°-125° C.

reactant | N-[3-(bromomethyl)phenyl]-4-(tetradecyloxy)benzeneacetamide | 1.5 g | BrCC=1C=C(C=CC1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C29H42BrNO2
reactant | 3,5-lutidine | 933.5 mg | N1=CC(=CC(=C1)C)C | C7H9N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 3,5-Dimethyl-1-[[3-[[[4-(tetradecyloxy)phenyl] acetyl]amino]phenyl]methyl]pyridinium bromide | 1.6 g | [Br-].CC=1C=[N+](C=C(C1)C)CC1=CC(=CC=C1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | InChI=1S/C36H50N2O2.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-23-40-35-21-19-32(20-22-35)26-36(39)37-34-18-16-17-33(25-34)29-38-27-30(2)24-31(3)28-38;/h16-22,24-25,27-28H,4-15,23,26,29H2,1-3H3;1H
